US05145865
(1) Methyl 4-[1-(4-aminophenyl)-2-pyrrolidon-4-yl]methoxybenzoate
Methyl 4-[1-(4-acetylaminophenyl)-2-pyrrolidon-4-yl]methoxybenzoate (1.70 g) is dissolved in methanol (30 ml) and thereto is added conc. sulfuric acid (0.24 ml). The mixture is stirred under refluxing for 23 hours. Subsequently, the reaction solution is concentrated under reduced pressure, and water and the neutralization amount of sodium hydrogen carbonate are added to the resulting residue. The precipitated crystal is collected by filtration and washed with water to give the desired product (1.47 g), m.p. 136°-138° C.

reactant | Methyl 4-[1-(4-acetylaminophenyl)-2-pyrrolidon-4-yl]methoxybenzoate | 1.70 g | C(C)(=O)NC1=CC=C(C=C1)N1C(CC(C1)COC1=CC=C(C(=O)OC)C=C1)=O | C21H22N2O5
reactant | sulfuric acid | 0.24 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 30 ml | CO | CH4O
product | Methyl 4-[1-(4-aminophenyl)-2-pyrrolidon-4-yl]methoxybenzoate | 1.47 g | NC1=CC=C(C=C1)N1C(CC(C1)COC1=CC=C(C(=O)OC)C=C1)=O | C19H20N2O4
